US04795487
Acetyl chloride (1.34 g, 17.0 mmol) was added to an ice cooled mixture of 3-hydroxy-2-propionyl-5-(3-cyanomethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (2.65 g, 8.15 mmol) and aluminium chloride (4.15 g, 33.4 mmol) in carbon disulfide (100 ml). The mixture was refluxed for 4 h, cooled and added cautiously to 10% hydrochloric acid (50 ml) and ice (50 ml). The organic solvent was allowed to evaporate from the mixture then the aqueous layer was extracted with ethyl acetate, the organic extracts were washed with water, dried over sodium sulfate and concentrated under reduced pressure. The crude product was chromatographed on silica gel (elution with an increasing gradient of ethyl acetate in methylene chloride). After an initial fraction of unreacted starting material, 3-hydroxy-2-propionyl-5-(3-acetyl-5-cyanomethyl-2,4,6-trimethyl phenyl)cyclohex-2-en-1-one was obtained as a colourless solid (1.5 g, 50%), which was characterized by proton magnetic resonance spectroscopy (CDCl3 ; δ in ppm): 1.12 (3H,t); 2.23 (3H,s); 2.25 (3H,s); 2.47 (6H,s); 2.4-4.1 (7H,m); 18.08 (1H,s).

reactant | Acetyl chloride | 17.0 mmol, 1.34 g | C(C)(=O)Cl | C2H3ClO
reactant | 3-hydroxy-2-propionyl-5-(3-cyanomethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 8.15 mmol, 2.65 g | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)CC#N)C)=O)C(CC)=O | C20H23NO3
reactant | aluminium chloride | 33.4 mmol, 4.15 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
product | 3-hydroxy-2-propionyl-5-(3-acetyl-5-cyanomethyl-2,4,6-trimethyl phenyl)cyclohex-2-en-1-one | OC1=C(C(CC(C1)C1=C(C(=C(C(=C1C)CC#N)C)C(C)=O)C)=O)C(CC)=O | C22H25NO4
